US05849764
Step C 3-(1H-benzoimidazol-5-yl)-acrylic acid methyl ester
To a solution of 1H-benzoimidazole-5-carboxaldehyde (250 mg in 12 mL dry tetrahydrofuran) at 0° C. was added 1.43 g methyl(triphenylphosphoranylidene)acetate and the mixture allowed to warm to room temperature. After 24 hours the mixture was concentrated in vacuo and purified by flash chromatography on silica gel (methylene chloride:methanol, 93:7) to give the title compound (257 mg).

reactant | 1H-benzoimidazole-5-carboxaldehyde | 12 mL, 250 mg | N1C=NC2=C1C=CC(=C2)C=O | C8H6N2O
reactant | methyl(triphenylphosphoranylidene)acetate | 1.43 g | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
product | 3-(1H-benzoimidazol-5-yl)-acrylic acid methyl ester | 257 mg | COC(C=CC1=CC2=C(NC=N2)C=C1)=O | C11H10N2O2
